US07521558B2
Methyl 4-Acryloylamino-5-chloro-2-methoxybenzoate
To a 1-liter three-necked round-bottom flask equipped with overhead stirrer, temperature control and addition funnel was added methyl 4-amino-5-chloro-2-methoxybenzoate (44.2 g, 200 mmol), dichloromethane (500 μL) and diisopropylethylamine (104.5 mL, 600 mmol). The resulting mixture was stirred at room temperature until the ingredients dissolved and then the mixture was cooled to 0° C. Acryloyl chloride (16.25 mL, 200 mmol) was then added dropwise while maintaining the internal reaction mixture temperature below 10° C. The total time for addition was about 30 min. The reaction mixture was then slowly warmed from 0° C. to room temperature over a period of about 2 hours. Aqueous saturated sodium bicarbonate solution (200 mL) and dichloromethane (200 mL) were then added and this mixture was stirred for 15 min. and then the layers were separated. The dichloromethane layer was washed with 1 M hydrochloric acid (200 mL) and then concentrated under reduced pressure to about one-third its original volume resulting in a thick slurry. The slurry was filtered and the filter cake was washed with dichloromethane (100 mL) and dried to provide the title compound as an off-white solid (36 g, 67% yield, >98% purity by HPLC).

reactant | methyl 4-amino-5-chloro-2-methoxybenzoate | 200 mmol, 44.2 g | NC1=CC(=C(C(=O)OC)C=C1Cl)OC | C9H10ClNO3
reactant | diisopropylethylamine | 600 mmol, 104.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Acryloyl chloride | 200 mmol, 16.25 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 μL | ClCCl | CH2Cl2
product | Methyl 4-Acryloylamino-5-chloro-2-methoxybenzoate | 36 g, 67% yield | C(C=C)(=O)NC1=CC(=C(C(=O)OC)C=C1Cl)OC | C12H12ClNO4
